US05346647
A mixture of 19 g of 1-butyloxy-4-[4-(trans-4-pentyl-cyclohexyl)-1-butenyl]benzene (cis/trans mixture), 200 ml of absolute toluene and 100 ml of absolute ethyl acetate: was treated with 2 g of palladium/carbon (10%) and hydrogenated at normal pressure and room temperature until the hydrogen uptake came to a standstill. The inorganic material was removed by filtration and the filtrate was concentrated. The residue was purified by chromatography on silica gel with toluene/ethyl acetate. Recrystallization from ethanol gave 16 g of pure 1-butyloxy-4-[4-(trans-4-pentylcyclohexyl)-l-butyl]benzene with m.p. (C-SB) 29° C. and cl.p. (SB --I) 43° C.

reactant | 1-butyloxy-4-[4-(trans-4-pentyl-cyclohexyl)-1-butenyl]benzene | 19 g | C(CCC)OC1=CC=C(C=C1)C=CCC[C@@H]1CC[C@H](CC1)CCCCC | C25H40O
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | hydrogen | [H][H] | H2
catalyst | palladium/carbon | 2 g | [Pd] | Pd
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-butyloxy-4-[4-(trans-4-pentylcyclohexyl)-l-butyl]benzene | 16 g | C(CCC)OC1=CC=C(C=C1)CCCC[C@@H]1CC[C@H](CC1)CCCCC | C25H42O
